US05273975
A suspension of 2,6-dichloro-3-nitrotoluene (6.0 g, 29 mmol) in 50% methanolic ammonia (60 mL) was stirred at 130° C. (340 lb pressure) for 18 hours. The autoclave was cooled to -30° C., opened, and the precipitate was filtered off and washed with methanol to give 4.14 g (76%) of 3-chloro-2-methyl-6-nitrobenzenamine.

reactant | 2,6-dichloro-3-nitrotoluene | 29 mmol, 6.0 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)C | C7H5Cl2NO2
reactant | ammonia | 60 mL | N | H3N
product | 3-chloro-2-methyl-6-nitrobenzenamine | 4.14 g, 76% | ClC=1C(=C(C(=CC1)[N+](=O)[O-])N)C | C7H7ClN2O2
